US06413964B1
Step G: Preparation of 4-tert-Butoxycarbonyl-2-piperazinone
To a solution of 4-benzyloxycarbonyl-2-piperazinone (9.44 g, 40.3 mmol) and di-tert-butyldicarbonate (8.80 g, 40.3 mmol) in 100 mL of ethanol was added 10% palladium on carbon (1.5 g). The solution was stirred at room temperature under an atmosphere of hydrogen for 3 days, then purged with argon. The mixture was filtered through celite, the filter pad was washed with ethanol/THF, and the filtrate was concentrated in vacuo to produce the titled product as a white solid.

reactant | 4-benzyloxycarbonyl-2-piperazinone | 40.3 mmol, 9.44 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)=O | C12H14N2O3
reactant | di-tert-butyldicarbonate | 40.3 mmol, 8.80 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | 4-tert-Butoxycarbonyl-2-piperazinone | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
